US05670506
3-(8,9-Dihydroxynonyl)-1-methylthymine (CT1918) was used as an intermediate for the synthesis of CT1908 (example 12). A mixture of sodium hydride (343 mg, 14 mmol) and 1-methylthymine (2.00 g, 14 mmol) in dimethylsulfoxide (40 ml) was stirred for 15 min and then 9-bromo-1-nonene (2.93 g, 14 mmol) was added. After stirring for 20 hr, the mixture was poured into water (40 ml) and extracted with dichloromethane (3×50 ml). The combined organic layers were washed with water (40 ml), with saturated aqueous sodium chloride solution (20 ml), and dried over sodium sulfate. The solvent was evaporated to give 3-(8-nonenyl)-1-methylthymine (CT1917) (2.76 g, 73% yield) as a colorless oil which solidified upon standing.

reactant | 3-(8,9-Dihydroxynonyl)-1-methylthymine | OC(CCCCCCCN1C(N(C=C(C1=O)C)C)=O)CO | C15H26N2O4
reactant | sodium hydride | 14 mmol, 343 mg | [H-].[Na+]
reactant | 1-methylthymine | 14 mmol, 2.00 g | CN1C(=O)NC(=O)C(C)=C1 | C6H8N2O2
reactant | 9-bromo-1-nonene | 14 mmol, 2.93 g | BrCCCCCCCC=C | C9H17Br
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | water | 40 ml | O | H2O
product | 3-(8-nonenyl)-1-methylthymine | 2.76 g, 73% yield | C(CCCCCCC=C)N1C(N(C=C(C1=O)C)C)=O | C15H24N2O2
